US04478835
A mixture of 35 g (0.18 mole) of the known compound 6-chloromethyl-2-methylthiopyrimidin-4-one and 300 ml of phosphorous oxychloride was heated at reflux for 3.5 hours, cooled and evaporated. The mixture was poured into 600 ml of an ice-water mixture and the mixture was extracted with four 200 ml portions of chloroform. The combined extracts were washed sequentially with two 200 ml portions of water, 20 ml of saturated aqueous sodium bicarbonate solution and 200 ml of saturated aqueous sodium chloride solution, and were then dried over magnesium sulfate and evaporated. The residue was distilled at reduced pressure to provide 4-chloro-6-chloromethyl-2-methylthiopyrimidine as a yellow liquid, b.p. 90°-95° C./0.15 mm Hg. The structural assignment was confirmed by infrared and nuclear magnetic resonance spectral analyses.

reactant | 6-chloromethyl-2-methylthiopyrimidin-4-one | ClCC1=CC(NC(=N1)SC)=O | C6H7ClN2OS
reactant | phosphorous oxychloride | 300 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-chloro-6-chloromethyl-2-methylthiopyrimidine | ClC1=NC(=NC(=C1)CCl)SC | C6H6Cl2N2S
